US08471004B2
Sodium periodiate (206 mg, 0.96 mmol) and osmium tetroxide solution (2.5% in tert-butyl alcohol, 33 μL, 3.3 μmol) were added at 0° C. to a suspension of (3S,8aS)-6-allyl-3-methyl-4-oxo-hexahydro-pyrrolo[1,2-a]pyrazine-2-carboxylic acid benzyl ester (110 mg, 0.33 mmol) in acetone (1 mL) and water (1 mL). After removal of the ice bath the reaction mixture was stirred for 3 h at room temperature, then partitioned between EtOAc and water. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated to furnish (3S,8aS)-3-methyl-4-oxo-6-(2-oxo-ethyl)-hexahydro-pyrrolo[1,2-a]pyrazine-2-carboxylic acid benzyl ester [MS: 331.2 (M+H)+]. This was dissolved in DCM (1 mL) and added at room temperature to a suspension of (S)-6-aza-spiro[2.5]octan-4-ol hydrochloride (53 mg, 0.33 mmol), Et3N (33 mg, 0.33 mmol), HOAc (39 mg, 0.66 mmol), and sodium triacetoxyborohydride (77 mg, 0.36 mmol) in DCM (1 mL). After 16 h the reaction mixture was partitioned between EtOAc and 1 M aq. sodium carbonate solution. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and evaporated. Chromatography (SiO2; DCM→DCM/MeOH/25% aq. ammonia solution 90:10:0.25) afforded the title compound (88 mg, 62%). Light yellow gum, MS: 442.4 (M+H)+.

reactant | Sodium | 0.96 mmol, 206 mg | [Na] | Na
reactant | (3S,8aS)-6-allyl-3-methyl-4-oxo-hexahydro-pyrrolo[1,2-a]pyrazine-2-carboxylic acid benzyl ester | 0.33 mmol, 110 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@H]2N(C([C@@H]1C)=O)C(CC2)CC=C | C19H24N2O3
reactant | acetone | 1 mL | CC(=O)C | C3H6O
solvent | water | 1 mL | O | H2O
catalyst | osmium tetroxide | 3.3 μmol, 33 μL | [Os](=O)(=O)(=O)=O
product | (3S,8aS)-3-methyl-4-oxo-6-(2-oxo-ethyl)-hexahydro-pyrrolo[1,2-a]pyrazine-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C[C@H]2N(C([C@@H]1C)=O)C(CC2)CC=O | C18H22N2O4
